US08729294B2
To ethyl glyoxylate polymer obtained by concentrating 47% toluene solution (108.6 mg, 0.5 mmol) were added (S)-2-[bis(3,5-bis(trifluoromethyl)phenyl)hydroxymethyl]pyrrolidine in an amount shown in Table 2 (the amount relative to ethyl glyoxylate (in monomer amount)), propanal (43.5 mg, 0.75 mmol), acetonitrile (0.5 ml, 1 M) and water (27.3 μL, 1.5 mmol). The reaction mixture was stirred at 23° C. for 24 hr, and Ph3P═CHCO2Et (348 mg, 1.0 mmol) was added thereto. The reaction mixture was stirred at 23° C. for 24 hr, and filtered through silica gel pad to quench the Wittig reaction, and the filtrate was concentrated under reduced pressure. The residue was purified by preparative thin layer chromatography (ethyl acetate:hexane=1:2) to give 1,6-diethyl (4R,5R,E)-5-hydroxy-4-methylhex-2-enedioate. The yield, syn/anti ratio and enantiomeric excess are shown in Table 2. The yield is calculated as a yield in 2 steps. The syn/anti ratio was measured by 1H-NMR spectrum. The enantiomeric excess was measured by HPLC using CHIRALCEL OB-H column (iPrOH:hexane=1:100, 1 mL/min).

reactant | toluene | 0.5 mmol, 108.6 mg | C1(=CC=CC=C1)C | C7H8
reactant | (S)-2-[bis(3,5-bis(trifluoromethyl)phenyl)hydroxymethyl]pyrrolidine | FC(C=1C=C(C=C(C1)C(F)(F)F)C([C@H]1NCCC1)(O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(F)F | C21H15F12NO
reactant | ethyl glyoxylate | C(C=O)(=O)OCC | C4H6O3
reactant | propanal | 0.75 mmol, 43.5 mg | C(CC)=O | C3H6O
reactant | water | 1.5 mmol, 27.3 μL | O | H2O
reactant | Ph3P | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | acetonitrile | 1 M, 0.5 ml | C(C)#N | C2H3N
product | 1,6-diethyl (4R,5R,E)-5-hydroxy-4-methylhex-2-enedioate | O[C@H]([C@@H](/C=C/C(=O)OCC)C)C(=O)OCC | C11H18O5
